US05516774
A mixture of 8.26 g of ethyl 4-aminobenzoate, 8.26 g of N-chlorosuccinimide in 50 ml of dichloromethane is refluxed overnight. The mixture is washed with saturated NaHCO3 solution and dried Na2SO4). The solution is passed through a thin pad of hydrous magnesium silicate and the filter cake washed with dichloromethane. The filtrate is concentrated and hexane added. Chilling gives 7.38 g of ethyl 3-chloro-4-aminobenzoate, m.p. 82°-83° C.

reactant | ethyl 4-aminobenzoate | 8.26 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | N-chlorosuccinimide | 8.26 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 3-chloro-4-aminobenzoate | 7.38 g | ClC=1C=C(C(=O)OCC)C=CC1N | C9H10ClNO2
